US08198456B2
3-(1H-benzimidazol-2-yl)-5-iodo-1H-indazole (500 mg, 1.39 mmol) was dissolved in DMF (5 mL), then Pd(PPh3)2Cl2 (24 mg, 0.034 mmol) and sodium formate (142 mg, 2.1 mmol) were added. The reaction mixture was put under vacuum and recharged with CO three times, then heated up to 90° C. for 4 hr. The mixture was diluted with EtOAc, washed with brine, dried and concentrated. The crude product was purified by flash chromatography to afford 3-(1H-benzimidazol-2-yl)-1H-indazole-5-carboxaldehyde (135 mg, 37%) as yellow solid.

reactant | 3-(1H-benzimidazol-2-yl)-5-iodo-1H-indazole | 1.39 mmol, 500 mg | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)I | C14H9IN4
reactant | sodium formate | 2.1 mmol, 142 mg | C(=O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.034 mmol, 24 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1H-benzimidazol-2-yl)-1H-indazole-5-carboxaldehyde | 135 mg, 37% | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)C=O | C15H10N4O
